US07307084B2
21. 2,3-Dimethyl-8-phenyl-3,6,7,8tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid (2,3-Dihydroxy-propyl)amide
To a solution of 0.3 g (0.93 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid and 0.3 g (0.93 mmol) O(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoro-borate (TBTU) in dimethylformamide (5 ml) were added 240 μl (1.9 mmol) triethylamine and 71 μl (0.93 mmol) 3-amino-propane-1,2-diol and the suspension was stirred overnight at room temperature. The reaction was poured into water, the precipitate filtered off and purified by column chromatography on silica gel (dichloromethane/methanol=8:1) to afford 100 mg (270%) of the title compound as a white solid.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid | 0.93 mmol, 0.3 g | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
reactant | triethylamine | 1.9 mmol, 240 μl | C(C)N(CC)CC | C6H15N
reactant | 3-amino-propane-1,2-diol | 0.93 mmol, 71 μl | NCC(CO)O | C3H9NO2
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2,3-Dimethyl-8-phenyl-3,6,7,8tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid (2,3-Dihydroxy-propyl)amide | 100 mg, 270% | OC(CNC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1)CO | C22H25N3O4
